US08207177B2
Step f: N-[(1R)-2,3-Dihydro-1H-inden-1-yl]-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine
In a 0.5-2 mL microwave vial, 4-(benzylsulfonyl)-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidine (100 mg, 0.198 mmol), (R)-(−)-1-aminoindan (0.127 mL, 0.989 mmol), and DIPEA (0.172 mL, 0.989 mol) were dissolved in ethanol (1.22 mL). The vial was sealed and heated to 110° C. overnight. The solution was then concentrated in vacuo and the resulting material was purified via silica gel chromatography eluting with a gradient of 20 to 50% EtOAc in hexanes to afford the product as an orange oil (70.0 mg, 73%). LC/MS: Rt=1.42 min, ES+ 483 (FA standard).

reactant | 4-(benzylsulfonyl)-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidine | 0.198 mmol, 100 mg | C(C1=CC=CC=C1)S(=O)(=O)C=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@@H]1[C@@H](OC(OC1)C1=CC=C(C=C1)OC)C2 | C27H27N3O5S
reactant | (R)-(−)-1-aminoindan | 0.989 mmol, 0.127 mL | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | DIPEA | 0.989 mol, 0.172 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 1.22 mL | C(C)O | C2H6O
product | N-[(1R)-2,3-Dihydro-1H-inden-1-yl]-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 70.0 mg, 73% | [C@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@@H]1[C@@H](OC(OC1)C1=CC=C(C=C1)OC)C2 | C29H30N4O3
